US04519953
30.4 g (0.2 mole) of o-cyanobenzyl chloride are dissolved in 70 g of dimethylformamide, and 24 g (0.6 mole) of sodium hydroxide powder are added at the same time as nitrogen is passed in. The mixture is stirred at 20° C. for about 6-10 hours until all the organically bound chlorine has reacted, 70 g of methanol are added dropwise, and the precipitate is filtered off with suction at 0° C. and is washed with methanol and then with water until no chlorine ions are detectable in the water from the wash. Drying gives 17.8 g of stilbene-2,2'-dicarbonitrile in the form of white crystals.

reactant | o-cyanobenzyl chloride | 0.2 mole, 30.4 g | C(#N)C1=C(CCl)C=CC=C1 | C8H6ClN
reactant | sodium hydroxide | 0.6 mole, 24 g | [OH-].[Na+]
reactant | chlorine | ClCl | Cl2
reactant | methanol | 70 g | CO | CH4O
solvent | dimethylformamide | 70 g | CN(C=O)C | C3H7NO
product | stilbene-2,2'-dicarbonitrile | 17.8 g, Yield: 77.5% | C=1(C(=CC=CC1)C#N)C=CC=1C(=CC=CC1)C#N | C16H10N2
